US08461134B2
4-Amino-2-(2-fluoroethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide
A solution of 2,2,2-trifluoro-N-(3-(2-fluoroethyl)-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetamide (210 mg, 0.47 mmol) and 7M ammonium in MeOH (10 mL) in 10 mL of MeOH was stirred in a sealed tube at 60° C. for 2 hours. After concentrated, the crude mixture was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the title compound as a yellow solid (87 mg). MS calcd for (C15H16BFN2O4S): 350.1. MS found (ESI negative): (M−H)−=349.1. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 10.05 (s, 1H), 9.2 (bs, 1H), 7.57 (d, J=8.4 Hz, 1H), 7.42 (d, J=2 Hz, 2H), 7.22 (d, J=8 Hz, 1H), 7.12 (dd, J=8, 2 Hz, 1H), 6.46 (d, J=2 Hz, 1H), 6.40 (dd, J=8.4, 2 Hz, 1H), 5.5 (bs, 2H), 4.86 (s, 2H), 4.59 (dt, J=48, 6.4 Hz, 2H), 4.23 (dt, J=23, 6 Hz, 2H).

reactant | 2,2,2-trifluoro-N-(3-(2-fluoroethyl)-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetamide | 0.47 mmol, 210 mg | FC(C(=O)NC1=CC(=C(C=C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)CCF)(F)F | C17H15BF4N2O5S
reactant | ammonium | 7M | [NH4+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | 4-Amino-2-(2-fluoroethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 87 mg | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CCF | C15H16BFN2O4S
